US07323475B2
d. 1-Chloro-4-hydroxy-isoquinoline-3-carboxylic acid
A mixture of 9.23 g of 1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester (33 mmol), 90 ml of 2.5N aqueous sodium hydroxide solution, water (20 ml) and ethanol (110 ml) was refluxed with stirring for 2 h. Then the pH of the mixture was adjusted to 2 by the addition of concentrated aqueous hydrochloric acid. During the addition, the temperature of the mixture was kept at 20° C. by cooling with an ice bath. Stirring was then continued for 1 h before the solid component was separated by vacuum filtration. The filter cake was washed with water and dried in vacuo at 85° C. to give a white powder. 6.64 g of the title compound were obtained; MS-(+)-ion: M+1=224.1 amu.

reactant | 1-chloro-4-hydroxy-isoquinoline-3-carboxylic acid butyl ester | 33 mmol, 9.23 g | C(CCC)OC(=O)C=1N=C(C2=CC=CC=C2C1O)Cl | C14H14ClNO3
reactant | sodium hydroxide | 2.5N, 90 ml | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 110 ml | C(C)O | C2H6O
product | 1-Chloro-4-hydroxy-isoquinoline-3-carboxylic acid | 6.64 g | ClC1=NC(=C(C2=CC=CC=C12)O)C(=O)O | C10H6ClNO3
